US04753953
7-(cis-3-Amino-4-methyl-1-pyrrolidinyl)-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
A mixture of 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid (0.7 g), cis-3-t-butoxycarbonylamino-4-methylpyrrolidine (0.62 g), DBU (0.43 g) and anhydrous acetonitrile (30 ml) was refluxed for 52 hours. After cooling, the resulting precipitate was collected by filtration, washed with chilled acetonitrile and this was added to concentrated hydrochloric acid-methanol (1:1, 5 ml) and stirred for 40 minutes at elevated temperature. The reacting mixture was collected by filtration, washed with chilled water sufficiently and recrystallized from chloroform-methanol-concentrated aqueous ammonia (10:10:3) to give the title compound (0.076 g) as pale yellow prisms, mp 268°-270° C. (decompd.).

reactant | 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 0.7 g | ClC1=C(C=C2C(C(=CN(C2=C1)C1CC1)C(=O)O)=O)F | C13H9ClFNO3
reactant | cis-3-t-butoxycarbonylamino-4-methylpyrrolidine | 0.62 g | C(C)(C)(C)OC(=O)N[C@@H]1CNC[C@@H]1C | C10H20N2O2
reactant | DBU | 0.43 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 7-(cis-3-Amino-4-methyl-1-pyrrolidinyl)-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 0.076 g | N[C@@H]1CN(C[C@@H]1C)C1=C(C=C2C(C(=CN(C2=C1)C1CC1)C(=O)O)=O)F | C18H20FN3O3
